* D:\CMOS_OPAMP_Project\Diff_amp\Diff_amp_Opamp.cir

.lib "sky130_fd_pr/models/sky130.lib.spice" tt

* Sheet Name: /
xM1  Net-_M1-Pad1_ vbias vdd vdd sky130_fd_pr__pfet_01v8 w=20 l=1		
xM4  Net-_M2-Pad1_ Net-_M2-Pad1_ vss vss sky130_fd_pr__nfet_01v8 w=20 l=1		
xM2  Net-_M2-Pad1_ vinp Net-_M1-Pad1_ Net-_M1-Pad1_ sky130_fd_pr__pfet_01v8 w=50 l=1		
xM3  vo vinm Net-_M1-Pad1_ Net-_M1-Pad1_ sky130_fd_pr__pfet_01v8 w=50 l=1		
xM5  vo Net-_M2-Pad1_ vss vss sky130_fd_pr__nfet_01v8 w=20 l=1
				
R1  vo Net-_C1-Pad2_ 290		
C1  vout Net-_C1-Pad2_ 3.2p		
xM6  vout vbias vdd vdd sky130_fd_pr__pfet_01v8 w=20 l=1		
xM7  vout vo GND GND sky130_fd_pr__nfet_01v8 w=50 l=1
CL  vout GND 14p

******* DC supply info******
VDD vdd GND 5
VSS vss GND 0
VBIAS vbias 0 3.9

*******Transient analysis AC Source********
*VINP vinp 0 SIN(3.9 1m 10k 0 0 0)
*VINM vinm 0 SIN(3.9 1m 10k 0 0 180)

*******AC analysis AC Source******
VINP vinp 0 dc 3.9 ac 1
VINM vinm 0 dc 3.9 ac 1

*******Tran command*******
*.tran 0.1us 1000us
********Transient Plot ******
.control
run
*plot V(vinp) V(vinm) 
*plot V(vout)
*plot V(vo) 
*plot V(vdd) V(vbias)

******AC Command*****
ac dec 100 1 1000meg
*Magnitude dB plot for v(vout) on log scale
plot vdb(vout) xlog

*Phase degrees plot for v(vout) on log scale
let outd = 57.29*vp(vout)
settype phase outd
plot outd xlimit 1 1000meg ylabel 'phase'
let pm = outd + 180
settype phase pm
plot pm xlimit 1 1000meg ylabel 'Phase Margin'
 		
.endc

.end
